US07939569B1
A mixture of 2,4,5-trifluorophenylboronic acid (43.8 g, 249.2 mmol), 4-iodophenol (50 g, 226.5 mmol), potassium carbonate (78 g, 556.3 mmol), Pd(dppf)Cl2 methylene chloride complex (5.5 g, 6.8 mmol), DMF (150 mL), and water (38 mL) was degassed, purged with nitrogen, and heated at 50° C. overnight. The mixture was then diluted with EtOAc and water, acidified with conc. HCl under cooling with ice-water bath, stirred with charcoal, and filtered through Celite. The organic layer was separated, washed with water and brine, dried over sodium sulfate, filtered, and evaporated to afford a deep red oily crude product. The crude product in EtOAc was passed through silica gel to give 2′,4′,5′-trifluoro-biphenyl-4-ol as a light brown solid (38 g, 75%). LC-MS (ES) calculated for C12H7F3O, 224.18; found m/z 224 [M+H].

reactant | 2,4,5-trifluorophenylboronic acid | 249.2 mmol, 43.8 g | FC1=C(C=C(C(=C1)F)F)B(O)O | C6H4BF3O2
reactant | 4-iodophenol | 226.5 mmol, 50 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | potassium carbonate | 556.3 mmol, 78 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 38 mL | O | H2O
product | 2′,4′,5′-trifluoro-biphenyl-4-ol | 38 g, 75% | FC1=C(C=C(C(=C1)F)F)C1=CC=C(C=C1)O | C12H7F3O
